US04539150
Preparation of 3-(1-ethoxycarbonylnonylamino)-5-t-butoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one
1.3 g of 3-amino-5-t-butoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and 3.0 g of ethyl 2-ketodecanoate were dissolved in 10 ml of ethanol. After the addition of 0.3 ml of acetic acid, the resulting mixture was stirred for 3 hours. Then, a solution of 420 mg of sodium boron cyanide hydride in 7 ml of ethanol was added dropwise thereto. After this mixture was allowed to stand overnight, it was concentrated under reduced pressure and the residue was dissolved in ethyl acetate. The solution was washed with water, dried and then concentrated. The residue was purified by silica gel column chromatography using a 7:1 mixture of benzene and ethyl acetate as the eluent. Thus, there was obtained 1.8 g of the desired compound in the form of an oily material.

reactant | 3-amino-5-t-butoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.3 g | NC1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O3S
reactant | ethyl 2-ketodecanoate | 3.0 g | O=C(C(=O)OCC)CCCCCCCC | C12H22O3
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | sodium boron cyanide hydride | 420 mg | [BH]C#N.[Na]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 3-(1-ethoxycarbonylnonylamino)-5-t-butoxycarbonylmethyl-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.8 g | C(C)OC(=O)C(CCCCCCCC)NC1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C27H42N2O5S
